US08735402B2
(g) 3-{4-[5-(3-Chlorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylic acid
77 mg of benzyl 3-{4-[5-(3-chlorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylate were dissolved in 4.4 ml of ethyl acetate, 2.5 mg of palladium on carbon (5%) were added and the mixture was hydrogenated at 3 bar and room temperature. After 5 h, the catalyst was filtered off. The filtrate was concentrated, and purification by preparative HPLC gave 20 mg (32%) of the title compound.

reactant | benzyl 3-{4-[5-(3-chlorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylate | 77 mg | ClC=1C=C(OC=2N=CC3=C(N2)OC(=N3)C3=CC(=C(OC2CC(C2)C(=O)OCC2=CC=CC=C2)C(=C3)C)C)C=CC1 | C31H26ClN3O5
solvent | ethyl acetate | 4.4 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 2.5 mg | [Pd] | Pd
product | 3-{4-[5-(3-Chlorophenoxy)oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethylphenoxy}cyclobutanecarboxylic acid | 20 mg, 32% | ClC=1C=C(OC=2N=CC3=C(N2)OC(=N3)C3=CC(=C(OC2CC(C2)C(=O)O)C(=C3)C)C)C=CC1 | C24H20ClN3O5
